US07432260B2
N-{4-[4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenyl}-2-[1,2,4]triazol-1-yl-acetamide [52].
By treatment of 2-chloro-N-{4-[4-(2,4-dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenyl}-acetamide with 1H-[1,2,4]triazole. 1H-NMR (DMSO-D6) δ: 2.61 (s, 3H, CH3), 2.63 (s, 3H, CH3), 5.10 (s, 2H, CH2), 7.05 (d, 1H, J=5.4 Hz, pyrimidinyl-H), 7.50 (d, 2H, J=8.3 Hz, pyrimidinyl-H), 7.69 (d, 2H, J=8.9 Hz, Ph-H), 7.98 (s, 1H, Aryl-H), 8.48 (d, 1H, J=4.9 Hz, pyrimidinyl-H), 8.53 (s, 1H, Aryl-H), 9.62 (brs, 1H, NH), 10.30 (brs, 1H, NH). MS (ESI+) m/z 406.97 (C19H18N8OS requires 406.47).

reactant | 2-chloro-N-{4-[4-(2,4-dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenyl}-acetamide | ClCC(=O)NC1=CC=C(C=C1)NC1=NC=CC(=N1)C1=C(N=C(S1)C)C | C17H16ClN5OS
reactant | 1H-[1,2,4]triazole | N1N=CN=C1 | C2H3N3
product | N-{4-[4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenyl}-2-[1,2,4]triazol-1-yl-acetamide | CC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)NC(CN1N=CN=C1)=O | C19H18N8OS
